US04791114
Preparation of 5-benzoyl-2-(2-pyridylthiomethyl)benzimidazole
8.45 g of 2-(2-pyridylthio)acetic acid (0.05 mole) and 10.6 g of 4-benzoyl-1,2-phenylenediamine (0.05 mole) in 100 ml of 4N hydrochloric acid are heated under reflux for 2 days. The mixture is allowed to cool and is neutralized with ammonia solution. It is extracted with ethyl acetate (3×100 ml), and the extract dried (Na2SO4), filtered and concentrated to a volume of 125 ml. From this solution, 11.7 g (68%) of 5-benzoyl-2-(2-pyridylthiomethyl)benzimidazole crystallize. The product thereby obtained is identical to that obtained by Method A, and the data for the identification appeat in Tables 1 and 2.

reactant | 2-(2-pyridylthio)acetic acid | 0.05 mole, 8.45 g | N1=C(C=CC=C1)SCC(=O)O | C7H7NO2S
reactant | 4-benzoyl-1,2-phenylenediamine | 0.05 mole, 10.6 g | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)N)N | C13H12N2O
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 4N, 100 ml | Cl | ClH
product | 5-benzoyl-2-(2-pyridylthiomethyl)benzimidazole | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)CSC2=NC=CC=C2)C=C1 | C20H15N3OS
